US09386657B2
A solution of 9-phenyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)carbazole (7.1 g, 19.2 mmol), 3,6-dibromo-9H-carbazole (2.6 g, 8.0 mmol), K2CO3 (11.0 g, 79.7 mmol) in toluene (120 mL), water (40 mL) and EtOH (40 mL) was bubbled for 30 minutes with nitrogen. Then, Pd(PPh3)4 (0.9 g, 0.8 mmol) was added. The mixture was bubbled with nitrogen for 15 minutes and refluxed for 10 hours, after which bromobenzene (0.9 mL, 8.6 mmol) was added. The resultant mixture was refluxed for 6 hours. After cooling, the reaction mixture was extracted with CH2Cl2 and dried with MgSO4. The solvent was removed in vacuo and the residue was purified by flash chromatography using 40-60% CH2Cl2/hexane to afford 3,6-bis(9-phenylcarbazol-3-yl)carbazole (3.4 g, 65% yield) as a white solid.

reactant | 9-phenyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)carbazole | 19.2 mmol, 7.1 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)B1OC(C(O1)(C)C)(C)C | C24H24BNO2
reactant | 3,6-dibromo-9H-carbazole | 8.0 mmol, 2.6 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | K2CO3 | 79.7 mmol, 11.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromobenzene | 8.6 mmol, 0.9 mL | BrC1=CC=CC=C1 | C6H5Br
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
solvent | EtOH | 40 mL | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.8 mmol, 0.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,6-bis(9-phenylcarbazol-3-yl)carbazole | 3.4 g, 65% yield | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2NC3=CC=C(C=C3C2C1)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C48H31N3
